US07112582B2
Step 2: 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-pyrazole-3,5-dimethanol
To a solution of diethyl 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-pyrazole-3,5-dicarboxylate (0.74 g, 2 mmol) in methylene chloride (8 ml), under nitrogen, was added 12 ml of a 1.0 M solution of diisobutylaluminum hydride in methylene chloride at 0° C. After stirring at 0° C. for 0.5 hr, the mixture waas warmed to room temperature for 0.5 hr. It was then quenched with 15 ml of saturated ammonium chloride solution and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous sodium sulfate, and evaporated to give 0.44 g of a white solid; mp 82–83° C.; MS m/e 287 (MH+).

reactant | diethyl 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-pyrazole-3,5-dicarboxylate | 2 mmol, 0.74 g | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C=C1C(=O)OCC)C(=O)OCC | C17H30N2O5Si
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-pyrazole-3,5-dimethanol | 0.44 g | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C=C1CO)CO | C13H26N2O3Si
